US06753342B2
A solution of 1-(4-chlorobenzyl)-1H-indole (2.0 g) in dry ethyl ether (5 ml) kept under stirring and cooled to 0° C. is added drop by drop with a solution of oxalyl chloride (0.85 ml) in dry ethyl ether (2 ml). Afterwards the reaction is left at room temperature for 2 h. The separated solid is recovered by filtration, washed with dry ethyl ether and dried under vacuum at 40° C. to give 2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride (1.64 g).

reactant | 1-(4-chlorobenzyl)-1H-indole | 2.0 g | ClC1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12ClN
reactant | oxalyl chloride | 0.85 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
product | 2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride | 1.64 g | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)Cl)=O)C=C1 | C17H11Cl2NO2
